US05461155
N,N-Diethyl-3-hydroxy-4-amino-1-naphthalenesulfonamide (2.94 g) was dissolved in 10 ml of ethanol and 10 g of ice was added. The reaction mixture was cooled in an ice bath to keep the temperature below 5° C. Hydrochloric acid (3 ml, 37% ) was added, followed by dropwise addition of a solution of 0.83 g sodium nitrite in 2 ml water and stirring was continued for 30 minutes. In a separate flask, to a solution of 1.26 g 2,4-dihydro- 2-ethyl-5-methyl-3H-pyrazol-3-one in 10 ml ethanol was added 11 ml of 20% aqueous sodium acetate followed by 9 ml of 10% aqueous sodium hydroxide, while the temperature was maintained below 5° C. The diazonium salt (as a suspension) was then added portionwise to the stirred solution of 2-dihydro-2-ethyl-5-methyl-3H-pyrazol-3-one at 5° C. and the resulting mixture stirred for 30 min at room temperature. The product was extracted with 100 ml chloroform, the organic layer was washed with 5% formic acid and water, and dried over anhydrous sodium sulfate; and the solvent evaporated to give crude 3.25 g N,N-diethyl-3-hydroxy-4-(5-hydroxy-3-methyl-1-ethyl-1H-pyrazol-4-yl)azo-1-naphthalenesulfonamide. The product was subjected to column chromatography (toluene) to give pure 2.55 g N,N-diethyl-3-hydroxy-4-(5-hydroxy-3-methyl-1-ethyl-1H-pyrazol-4-yl)azo-1-naphthalenesulfon amide which was crystallized from methanol to give dark red prisms, m.p. 174° -175° C.

reactant | N,N-Diethyl-3-hydroxy-4-amino-1-naphthalenesulfonamide | 2.94 g | C(C)N(S(=O)(=O)C1=CC(=C(C2=CC=CC=C12)N)O)CC | C14H18N2O3S
reactant | Hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium nitrite | 0.83 g | N(=O)[O-].[Na+]
reactant | 2,4-dihydro- 2-ethyl-5-methyl-3H-pyrazol-3-one | 1.26 g | C(C)N1N=C(CC1=O)C | C6H10N2O
reactant | sodium acetate | 11 ml | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 9 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N,N-diethyl-3-hydroxy-4-(5-hydroxy-3-methyl-1-ethyl-1H-pyrazol-4-yl)azo-1-naphthalenesulfonamide | 3.25 g | C(C)N(S(=O)(=O)C1=CC(=C(C2=CC=CC=C12)N=NC=1C(=NN(C1O)CC)C)O)CC | C20H25N5O4S
